US05834434
N-BOC-4-aminobenzoyl methionine methyl ester
Into a dried, nitrogen filled flask was placed N-BOC-4-aminobenzoic acid (8.77 g, 36.97 mmol) in dry CH2Cl2 (148 ml) along with methionine methyl ester hydrochloride (8.12 g, 40.66 mmol). This solution was cooled in an ice bath and triethylamine (6.7 ml), EDCI (7.80 g, 40.66 mmol) and hydroxybenzotriazole (HOBT, 5.50 g, 40.66 mmol) were added. The mixture was stirred overnight, diluted with more CH2Cl2 and was extracted 3 times each with 1M HCl, 1M NaHCO3 and water. The CH2Cl2 was dried over MgSO4 and the solvent was removed in vacuo. The solid was recrystallized from ethyl acetate/ hexanes to yield 9.72 g (71.3%) of pure product. mp 184°-185° C.; 1H NMR (CDCl3) 1.53 (9 H, s), 2.06-2.18 (4 H, m), 2.23-2.33 (1 H, m), 2.59 (2 H, t, J=7.6 Hz), 3.80 (3 H, s), 4.92 (1 H, m), 7.45 (2 H, d, J=8.7 Hz), 7.77 (2 H, d, J=8.7 Hz); 13C NMR (CDCl3) 15.59, 28.34, 30.15, 31.64, 52.10, 52.73, 81.20, 117.73, 127.8, 128.33, 141.88, 152.33, 166.50, 172.75; anal. calc. for C18H26N2O5S, C: 56.53, H: 6.85, N: 7.29; found, C: 56.47, H: 6.86, N: 7.29; m/ z (EI) 382 (M).

reactant | N-BOC-4-aminobenzoic acid | 36.97 mmol, 8.77 g | C(=O)(OC(C)(C)C)NC1=CC=C(C(=O)O)C=C1 | C12H15NO4
reactant | methionine methyl ester hydrochloride | 40.66 mmol, 8.12 g | Cl.COC([C@@H](N)CCSC)=O
reactant | EDCI | 40.66 mmol, 7.80 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 40.66 mmol, 5.50 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | CH2Cl2 | 148 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
product | N-BOC-4-aminobenzoyl methionine methyl ester | 9.72 g, 71.3% | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)N)=O)CCSC)=O | C18H26N2O5S
